US04544759
A mixture of 55.03 g of 4-chlorobenzonitrile, 75.13 g of thioacetamide and 600 ml of dimethylformamide was saturated with dry hydrogen chloride gas while being chilled in an ice bath. The mixture was then distilled slowly on an oil bath at 100° C. When the liquid had been removed, aqueous sodium bicarbonate was added. The solid was collected and recrystallized from toluene, giving 48.35 g of 4-chlorothiobenzamide as yellow crystals.

reactant | 4-chlorobenzonitrile | 55.03 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | thioacetamide | 75.13 g | C(C)(=S)N | C2H5NS
reactant | hydrogen chloride | Cl | ClH
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 4-chlorothiobenzamide | 48.35 g | ClC1=CC=C(C(=S)N)C=C1 | C7H6ClNS
